US07074809B2
4-Methyl-piperidine-2-carboxylic acid ethyl ester hydrochloride
To a dichloromethane (50 mL) solution of 1-benzhydryl-4-methyl-1,2,3,6-tetrahydro-pyridine-2-carboxylic acid ethyl ester *(5.0 g, 14.9 mmol), 1-chloroethyl chloroformate (2.13 g, 14.9 mmol) was added at room temperature under argon. The reaction mixture was stirred overnight. After the reaction mixture was mixed with methanol (50 mL) and refluxed for an hour, cooled down to room temperature and 10% Pd/C (2 g) was added to reaction mixture and stirred under hydrogen overnight. The reaction mixture was filtered through celite and 1 M HCl in ether (15 mL) was added. After concentration, the residue was triturated with acetone, filtered to 2.03 g (65.5%) of 4-methyl-piperidine-2-carboxylic acid ethyl ester hydrochloride.

reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
reactant | 1-benzhydryl-4-methyl-1,2,3,6-tetrahydro-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1N(CC=C(C1)C)C(C1=CC=CC=C1)C1=CC=CC=C1 | C22H25NO2
reactant | 1-chloroethyl chloroformate | 14.9 mmol, 2.13 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
catalyst | Pd/C | 2 g | [Pd] | Pd
solvent | methanol | 50 mL | CO | CH4O
product | 4-Methyl-piperidine-2-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)C1NCCC(C1)C | InChI=1S/C9H17NO2.ClH/c1-3-12-9(11)8-6-7(2)4-5-10-8;/h7-8,10H,3-6H2,1-2H3;1H
